US04987132
A solution of 500 mg of dicyclohexylcarbodiimide in 3 ml of tetrahydrofuran was added dropwise to a mixture of 510 mg of 2-(3-pyridyl)thiazolidine-4-carboxylic acid, 490 mg of 1-hydroxybenzotriazole, 680 mg of nonadecylamine and 12 ml of tetrahydrofuran with ice cooling, and the resulting mixture was stirred with ice cooling for 1 hour and then at room temperature for 12 hours. The reaction mixture was diluted with 30 ml of ethyl acetate, and the insoluble matter was filtered off. The filtrate was washed in sequence with saturated aqueous solution of sodium hydrogen carbonate, water and saturated aqueous solution of sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: ethyl acetate) and recrystallized from ethyl acetate to give 250 mg of N-nonadecyl-2-(3-pyridyl)thiazolidine-4-carboxamide. Melting point 108°-110° C.

reactant | dicyclohexylcarbodiimide | 500 mg | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 2-(3-pyridyl)thiazolidine-4-carboxylic acid | 510 mg | N1=CC(=CC=C1)C1SCC(N1)C(=O)O | C9H10N2O2S
reactant | 1-hydroxybenzotriazole | 490 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | nonadecylamine | 680 mg | C(CCCCCCCCCCCCCCCCCC)N | C19H41N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 ml | O1CCCC1 | C4H8O
product | N-nonadecyl-2-(3-pyridyl)thiazolidine-4-carboxamide | 250 mg | C(CCCCCCCCCCCCCCCCCC)NC(=O)C1NC(SC1)C=1C=NC=CC1 | C28H49N3OS
